US08242125B2
47-A. (±)-2-Benzylamino-propionic acid ethyl ester
Ethyl alanine hydrochloride (5.5 g, 36.8 mmol), benzaldehyde (7.9 mL, 77.8 mmol), TEA (10.8 mL, 77.8 mmol) and NaBH(Oac)3 (16.5 g, 77.8 mmol) are taken up in 1,2-DCE (200 mL) and stirred at rt for 4 h. The reaction is then partitioned between DCM and saturated aqueous NaHCO3. The organic layer is removed, dried over anhydrous Na2SO4, and concentrated in vacuo. The crude residue is used without further purification. MS (ESI) m/z 208.2 (M+1).

reactant | Ethyl alanine hydrochloride | 36.8 mmol, 5.5 g | Cl.C(C)N[C@@H](C)C(=O)O
reactant | benzaldehyde | 77.8 mmol, 7.9 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1,2-DCE | 200 mL | ClCCCl | C2H4Cl2
product | (±)-2-Benzylamino-propionic acid ethyl ester | C(C)OC(C(C)NCC1=CC=CC=C1)=O | C12H17NO2
